US08114867B2
28.i. 3-(3-methoxy-quinolin-5-yl)-propionic acid
This compound was synthesised from 5-bromo-3-methoxy-quinoline (5.0 g, 21 mmol; prepared as in DE 10316081) and ethyl acrylate (5 eq.) according to method G followed by hydrogenation over Pd/C in THF/MeOH 4:1. The hydrolysis was carried out according to method F. The product was isolated as a colourless solid (0.1 g).

reactant | 5-bromo-3-methoxy-quinoline | 21 mmol, 5.0 g | BrC1=C2C=C(C=NC2=CC=C1)OC | C10H8BrNO
reactant | ethyl acrylate | 5 eq. | C(C=C)(=O)OCC | C5H8O2
solvent | THF MeOH | C1CCOC1.CO
catalyst | Pd/C | [Pd] | Pd
product | 3-(3-methoxy-quinolin-5-yl)-propionic acid | 0.1 g | COC=1C=NC2=CC=CC(=C2C1)CCC(=O)O | C13H13NO3
